US08034812B2
Production of N-[6-(3-{[(ethylamino)carbonyl]amino}-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide
To a solution of N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.62 mmol) in pyridine (4.0 mL) was added ethyl isocyanate (490 μL, 6.19 mmol), and the mixture was stirred at room temperature for 16 hr. The solvent was evaporated under reduced pressure and water was added to the residue. The mixture was extracted with ethyl acetate/tetrahydrofuran, washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was washed with ethyl acetate/ethanol and filtrated to give the title compound (142 mg, 58%) as a white powder.

reactant | N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.62 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
reactant | ethyl isocyanate | 6.19 mmol, 490 μL | C(C)N=C=O | C3H5NO
solvent | pyridine | 4.0 mL | N1=CC=CC=C1 | C5H5N
product | N-[6-(3-{[(ethylamino)carbonyl]amino}-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 142 mg, 58% | C(C)NC(=O)NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1C | C20H22N6O3
